US07456199B2
To 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester, was added DCM and triethylamine. This mixture was cooled to 0° C. and acryloyl chloride was added dropwise with stirring. After approximately 2 hours, the reaction was quenched by adding MeOH at 0° C. and the resulting mixture was stirred at room temperature for about 15 min and then concentrated in vacuo. DCM and water were added to the residue and this mixture was mixed thoroughly. The layers were separated and the aqueous layer was extracted with DCM. The organic layers were combined, dried (Na2SO4), filtered and the solvent was removed in vacuo to give 4-acryloylamino-5-chloro-2-hydroxybenzoic acid methyl ester. This ester was then combined with Preparation 1, followed by the addition of a THF-MeOH solvent. The mixture was heated and stirred for about 16 hours to provide biphenyl-2-ylcarbamic acid 1-[2-(4-formyl-3-hydroxyphenylcarbamoyl)ethyl]piperidin-4-yl ester was made. Using this ester, and following the procedure described in Example 2 and substituting the appropriate amine, the title compound was prepared. MS m/z [M+H+] calcd for C35H38N4O5, 595.7; found, 595.2.

reactant | 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester | COC(C1=C(C=C(C(=C1)Cl)N)O)=O | C8H8ClNO3
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-acryloylamino-5-chloro-2-hydroxybenzoic acid methyl ester | COC(C1=C(C=C(C(=C1)Cl)NC(C=C)=O)O)=O | C11H10ClNO4
